### PR TITLE
Add Erdős Problem 608 (edges in pentagons above the Turán threshold), link the formal disproof

### LINKED ISSUE #6163: Erdős Problem 608
### What is the Erdős problem?

https://www.erdosproblems.com/608

Let $G$ be a graph with $n$ vertices and $>n^2/4$ many edges. Are there at least $\frac{2}{9}n^2$ edges of $G$ which are contained in a $C_5$?

Status: disproved (Lean). The Füredi–Maleki construction (described by Grzesik–Hu–Volec) gives graphs with only $\approx 0.2134 n^2$ such edges; a formal disproof exists in plby/lean-proofs (`Erdos608.not_erdos_608`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6163.

### What changed
Adds `FormalConjectures/ErdosProblems/608.lean` with `edgesInCycle G k` (edges of `G` lying on some `k`-cycle, via `Walk.IsCycle`) and:
- `erdos_608` (`research solved`, `answer(False)`): for all sufficiently large `n`, every graph on `n` vertices with `> n²/4` edges has at least `(2/9) n²` edges in a `C₅`. Disproved by the Füredi–Maleki construction [GHV19]; linked to plby/lean-proofs `Erdos608.not_erdos_608` (Codex and GPT-5.6 Sol; 7 Mathlib-only files). The statement is asked for large `n` since it fails trivially at `n = 3`.
- `erdos_608.variants.five_cycle` (`research solved`): the sharp constant `(2 + √2)/16` of Grzesik–Hu–Volec (lower bound and matching construction).
- `erdos_608.variants.odd_cycle` (`research solved`): the Erdős–Faudree–Rousseau conjecture for `C_{2k+1}`, `k ≥ 3` [GHV19].
- `erdos_608.variants.triangles` (`research solved`): `≥ 2⌊n/2⌋ + 1` edges in triangles [EFR92].

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos608.not_erdos_608` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby's `pentEdges` is `edgesInCycle G 5` by their `onC5_iff_cycle`):

<details>
<summary>Bridge</summary>

```lean
open Filter

namespace Bridge608

lemma edgesInCycle_eq {n : ℕ} (G : SimpleGraph (Fin n)) :
    Erdos608.edgesInCycle G 5 = Erdos608Plby.pentEdges G := by
  ext e
  simp only [Erdos608.edgesInCycle, Erdos608Plby.pentEdges, Set.mem_ofPred_eq,
    Erdos608Plby.onC5_iff_cycle]

theorem erdos_608_bridge : type_of% Erdos608.erdos_608 := by
  show False ↔ _
  simp only [false_iff]
  intro h
  apply Erdos608Plby.not_erdos_608
  rw [eventually_atTop] at h
  obtain ⟨n₀, hn₀⟩ := h
  refine ⟨n₀, fun n hn G hG => ?_⟩
  rw [← edgesInCycle_eq]
  exact hn₀ n hn G hG

end Bridge608
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«608»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/608.lean [hunk 1]
```diff
@@ -0,0 +1,108 @@
...
+
+@[expose] public section
+
+open Filter SimpleGraph
+
+namespace Erdos608
+
+/-- The edges of `G` which are contained in a cycle of length `k`. -/
+def edgesInCycle {V : Type*} (G : SimpleGraph V) (k : ℕ) : Set (Sym2 V) :=
+  {e ∈ G.edgeSet | ∃ (v : V) (c : G.Walk v v), c.IsCycle ∧ c.length = k ∧ e ∈ c.edges}
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/608.lean:41]: `edgesInCycle` is a general graph notion; better belongs in Combinatorics/SimpleGraph/Cycle.lean

**Review by mo271 — COMMENTED** [review]
thanks
